US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3,5-dichlorophenylboronic acid (27 mg, 0.15 mmol) gave 4-(3,5-Dichloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (23 mg, 51%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.84 (s, 1 H); 8.15 (s, 2 H); 7.83 (s, 1 H); 7.73 (s, 1 H); 7.39 (s, 1 H); 3.89 (s, 3 H); 3.85 (s, 3 H). MS 450 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3,5-dichlorophenylboronic acid | 0.15 mmol, 27 mg | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 4-(3,5-Dichloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 23 mg, 51% | ClC=1C=C(C=C(C1)Cl)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H13Cl2N3O4S
